US04080505
In 30 ml of isopropanol is dissolved 3.05 g of 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)phenyl]propionic acid, and 0.62 g of aluminum isopropoxide is added to the solution. The mixture is stirred at room temperature for 3 hours. Then, 0.5 ml of water is added to the mixture and the mixture is further stirred for 1 hour. The resulting precipitates are collected by filtration, washed with water and isopropanol and dried. The procedure gives 2.0 g of Aluminum 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)-phenyl]propionate.

reactant | 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)phenyl]propionic acid | 3.05 g | ClC(C(=O)O)CC1=CC=C(C=C1)OCC(C1=CC=CC=C1)(C)C | C19H21ClO3
reactant | aluminum isopropoxide | 0.62 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | water | 0.5 ml | O | H2O
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | Aluminum 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)-phenyl]propionate | 2.0 g | ClC(C(=O)[O-])CC1=CC=C(C=C1)OCC(C1=CC=CC=C1)(C)C.[Al+3].ClC(C(=O)[O-])CC1=CC=C(C=C1)OCC(C)(C)C1=CC=CC=C1.ClC(C(=O)[O-])CC1=CC=C(C=C1)OCC(C)(C)C1=CC=CC=C1 | InChI=1S/3C19H21ClO3.Al/c3*1-19(2,15-6-4-3-5-7-15)13-23-16-10-8-14(9-11-16)12-17(20)18(21)22;/h3*3-11,17H,12-13H2,1-2H3,(H,21,22);/q;;;+3/p-3
